US07786044B2
30. Preparation of 4-Acetylamino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-trimethylsilanylethynylpyridine-2-carboxylic acid methyl ester
4-Acetylamino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-pyridine-2-carboxylic acid methyl ester (0.8 g, 2.061 mmol), trimethyl((tributylstannyl)ethynyl)silane (1.596 g, 4.12 mmol), and bis(triphenylphosphine)palladium(II) dichloride (0.145 g, 0.206 mmol) were combined in 1,2-dichloroethane (2 mL) and heated in a CEM microwave reactor at 130° C. for 15 min. The cooled reaction mixture was purified by flash chromatography on silica gel (hexane/ethyl acetate gradient) to yield the title compound (0.196 g, 21.1% yield). 1H NMR (CDCl3) δ 9.03 (s, 1H), 8.4 (br s, 1H), 7.67 (m, 1H), 7.24 (m, 1H), 4.0 (s, 3H), 3.99 (d, 3H), 2.29 (s, 3H), 0.36 (s, 9H).

reactant | 4-Acetylamino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-pyridine-2-carboxylic acid methyl ester | 2.061 mmol, 0.8 g | COC(=O)C1=NC(=CC(=C1Cl)NC(C)=O)C1=C(C(=C(C=C1)Cl)OC)F | C16H13Cl2FN2O4
reactant | trimethyl((tributylstannyl)ethynyl)silane | 4.12 mmol, 1.596 g | C[Si](C#C[Sn](CCCC)(CCCC)CCCC)(C)C
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.206 mmol, 0.145 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Acetylamino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-trimethylsilanylethynylpyridine-2-carboxylic acid methyl ester | 0.196 g, 21.1% yield | COC(=O)C1=NC(=CC(=C1C#C[Si](C)(C)C)NC(C)=O)C1=C(C(=C(C=C1)Cl)OC)F | C21H22ClFN2O4Si
